US07700595B2
Step 3: 2 Drops of DMF was added to a suspension of 8-methyl-3-phenylcinnolin-4-ol (60 mg) in SOCl2 (10 mL) and the reaction was refluxed for 0.5 hours. The reaction was concentrated, dilute with ethyl acetate and washed with water. The organic layer was dried over MgSO4 and concentrated to give crude 4-chloro-8-methyl-3-phenyl-cinnoline which was used for the next reaction without further purification. MS (ESI) m/z 255, 257;

reactant | DMF | CN(C)C=O | C3H7NO
reactant | 8-methyl-3-phenylcinnolin-4-ol | 60 mg | CC=1C=CC=C2C(=C(N=NC12)C1=CC=CC=C1)O | C15H12N2O
reactant | SOCl2 | 10 mL | O=S(Cl)Cl | Cl2OS
product | 4-chloro-8-methyl-3-phenyl-cinnoline | ClC1=C(N=NC2=C(C=CC=C12)C)C1=CC=CC=C1 | C15H11ClN2
